US08609691B2
To a solution of 30.0 g (0.265 mol) of cyclohexanone oxime in 300 ml of methylene chloride and 38 ml of ethanol was slowly added at 0° C. 34.5 g (0.318 mol) of tert.-butyl-hypochlorite. The resulting dark blue solution was cooled to −20° C. and then 31.9 g (0.398 mol) of 1,3-cyclohexadiene were added and the mixture was stored in a freezer at 5° C. for 2 days until the blue color had disappeared. The reaction mixture was concentrated to 50% of its volume and then 600 ml of diethyl ether were slowly added. After stirring overnight the resulting precipitate was isolated by suction to yield 29.0 g of 2-oxa-3-aza-bicyclo[2.2.2]oct-5-ene hydrochloride. 5.0 g (0.045 mol) of this material were hydrogenated with 3.0 g (0.013 mol) platinum oxide at 2 bar hydrogen pressure. After 7 h the catalyst was filtered off and a solution of 20 ml 4 M hydrochloric acid in dioxane was added. After evaporation the residue was recrystallized from 30 ml isopropanol giving 3.1 g of cis-4-aminocyclohexanol hydrochloride.

reactant | cyclohexanone oxime | 0.265 mol, 30.0 g | C1(CCCCC1)=NO | C6H11NO
reactant | tert.-butyl-hypochlorite | 0.318 mol, 34.5 g | C(C)(C)(C)OCl | C4H9ClO
reactant | 1,3-cyclohexadiene | 0.398 mol, 31.9 g | C1=CC=CCC1 | C6H8
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | 38 ml | C(C)O | C2H6O
product | 2-oxa-3-aza-bicyclo[2.2.2]oct-5-ene hydrochloride | 29.0 g | Cl.C12ONC(C=C1)CC2 | InChI=1S/C6H9NO.ClH/c1-3-6-4-2-5(1)7-8-6;/h1,3,5-7H,2,4H2;1H
